US06720320B2
Ethyl 4-benzyloxy-1-(2-methylpropyl)indole-2-carboxylate
By the reactions in the same manner as in Starting Material Synthesis Example 9 using ethyl 4-benzyloxy-1H-indole-2-carboxylate (10.0 g), sodium hydride (1.6 g) and isobutyl iodide (3.3 ml), the title compound (6.0 g) was obtained as a brown oil.

reactant | ethyl 4-benzyloxy-1H-indole-2-carboxylate | 10.0 g | C(C1=CC=CC=C1)OC1=C2C=C(NC2=CC=C1)C(=O)OCC | C18H17NO3
reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | isobutyl iodide | 3.3 ml | C(C(C)C)I | C4H9I
product | Ethyl 4-benzyloxy-1-(2-methylpropyl)indole-2-carboxylate | 6.0 g | C(C1=CC=CC=C1)OC1=C2C=C(N(C2=CC=C1)CC(C)C)C(=O)OCC | C22H25NO3
